US07153878B2
To a solution of 2-(4-Trifluoromethyl-benzoylamino)-propionic acid (5.0 g, 19.14 mmol) is added oxalyl chloride (16.7 mL, 191.4 mmol) and 2 drops of DMF and the solution stirred overnight. The volatiles are removed in vacuo and toluene (20 mL) is added. The toluene is then removed in vacuo. To the resultant crude oil is dissolve in dichloromethane (100 mL), cooled to 0° C. and triethylamine (13.4 mL, 96 mmol) is added followed by N,O-dimethyl hydroxylamine hydrochloride (9.4 g, 96 mmol). After 1 hr the mixture is partioned between 1M aqueous hydrochloric acid and ethyl acetate. The organic layer is dried over anhydrous magnesium sulfate, filtered, concentrated in vacuo. The product is purified over silica eluting with 8:2 hexanes:ethyl acetate to afford 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methoxy-methyl-amide as a white crystalline solid, 2.4 g, 40%. MS (M++1) 315.

reactant | 2-(4-Trifluoromethyl-benzoylamino)-propionic acid | 19.14 mmol, 5.0 g | FC(C1=CC=C(C(=O)NC(C(=O)O)C)C=C1)(F)F | C11H10F3NO3
reactant | oxalyl chloride | 191.4 mmol, 16.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 96 mmol, 13.4 mL | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethyl hydroxylamine hydrochloride | 96 mmol, 9.4 g | Cl.CNOC
reactant | hydrochloric acid | 1M | Cl | ClH
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)C | C14H13F3N2O3
